US08242116B2
Methyl N-methyl-N-(4-nitrophenyl)carbamate
The title compound was prepared from N-methyl-4-nitroaniline and methyl chloroformate according to Method Y and was isolated as a pale yellow solid (84%) after trituration in cold MeOH. δH (DMSO-d6) 8.22 (2H, d, J 9.3 Hz), 7.64 (2H, d, J 9.3 Hz), 3.70 (3H, s), 3.32 (3H, s).

reactant | N-methyl-4-nitroaniline | CNC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | MeOH | CO | CH4O
product | Methyl N-methyl-N-(4-nitrophenyl)carbamate | CN(C(OC)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O4
